US09126970B2
Step a): Synthesis of biphenyl-4-yl-(9,9-dimethyl-9H-fluoren-2-yl)amine
50 g of bromo-9,9-dimethyl-9H-fluorene (183 mmol), 38 g of p-phenylaniline (220 mmol), 1.5 g of DPPF (2.7 mmol), 0.5 g of palladium(II)acetate and 45 g of sodium tert-butoxide (486 mmol) are heated at the boil in 1.5 l of toluene under a protective-gas atmosphere for 18 h. The mixture is subsequently partitioned between toluene and water, and the organic phase is washed three times with water, dried over Na2SO4 and evaporated in a rotary evaporator. The residue which remains is recrystallised from heptane/ethyl acetate. The yield is 33 g (91.5 mmol, 50%).

reactant | bromo-9,9-dimethyl-9H-fluorene | 183 mmol, 50 g | BrC1=CC=CC=2C3=CC=CC=C3C(C12)(C)C | C15H13Br
reactant | p-phenylaniline | 220 mmol, 38 g | C1(=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11N
reactant | sodium tert-butoxide | 486 mmol, 45 g | CC(C)([O-])C.[Na+]
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
catalyst | DPPF | 2.7 mmol, 1.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium(II)acetate | 0.5 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | biphenyl-4-yl-(9,9-dimethyl-9H-fluoren-2-yl)amine | C1(=CC=C(C=C1)NC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C)C1=CC=CC=C1 | C27H23N
